US07666879B2
C. 1-[4-(7-Pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea
Load in a 5 mL septum capped vial the following: small magnetic stir bar, 1-[4-(7-chloro-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea (250 mg, 0.58 mmol), 4-pyridyl boronic acid (77.4 mg, 0.63 mmols, 1.1 Eq), S-phos (236 mg), Pd(OAc)2 (60 mg), K3PO4 (237 mg, 1.12 mmol), 1,4-dioxane: H2O 2:1. Heat the reaction to 50° C. for 24 hours, cool and purify with a Varian SCX® (10 g) column that is pre-washed with water and methanol, and elute the product with 2 N NH3 in methanol. Evaporate the product containing fractions under reduced pressure and take up into CH2Cl2 and chromatograph using SiO2 eluting with a gradient of 0% to 10% of 2 M NH3 in MeOH with the balance CH2Cl2. Evaporate the fractions containing the product under reduced pressure, then vacuum oven dry at 40° C. to give the title compound as a yellow solid 61.8 mg (22.5%). MS (ES), m/z 474 (M+1).

reactant | 1-[4-(7-chloro-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea | 0.58 mmol, 250 mg | ClC1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F | C21H14ClF3N4O
reactant | 4-pyridyl boronic acid | 0.63 mmols, 77.4 mg, 1.1 Eq | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | S-phos | 236 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | K3PO4 | 1.12 mmol, 237 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(OAc)2 | 60 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | 1,4-dioxane H2O | O1CCOCC1.O
product | 1-[4-(7-Pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(3-trifluoromethyl-phenyl)-urea | 61.8 mg, 22.5% | N1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C(F)(F)F | C26H18F3N5O
